US06498165B1
To a solution of 2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine (45.9 mg) in DMF (2 mL) was added diisopropylethylamine (73 μL) followed by 2,4-dichloropyrimidine (24.9 mg). The resulting solution was heated to 100° C. for 16 h then the mixture concentrated in vacuo. This crude was purified on silica gel (2-5%(2M NH3 in MeOH)/CH2Cl2) to yield 18.3 mg of 2-((S)-1-phenylethylamino)-4-(5-(2-chloropyrimidin-4-yl)aminobenzimidazol-1-yl)pyrimidine (L-860,182). 1H NMR (500 MHz, CDCl3, partial): δ 8.51 (br s, 1H); 8.42 (d, J=5.5 Hz, 1H); 8.13 (d, J=5.9 Hz, 1H); 7.75 (s, 1H); 7.45 (d, J=7.3 Hz, 2H); 7.40 t, J=7.7 Hz, 2H); 6.77 (d, J=5.3 Hz, 1H); 6.56 (d, J=6.0 Hz, IH); 1.66 (d, J=6.9 Hz, 3H). Mass spectrum (ESI) 443.3 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine | 45.9 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N | C19H18N6
reactant | diisopropylethylamine | 73 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,4-dichloropyrimidine | 24.9 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-((S)-1-phenylethylamino)-4-(5-(2-chloropyrimidin-4-yl)aminobenzimidazol-1-yl)pyrimidine | 18.3 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)NC2=NC(=NC=C2)Cl | C23H19ClN8
